US04812258
56 g of 2-(3-amino-4-n-pentylphenyl)-5-n-hexylpyrimidine (m.p. 92°, obtainable by reaction of 2-(4-n-pentylphenyl)-5-n-hexylpyrimidine (c.p. 28.5°) with nitric acid to give 2-(3-nitro-4-n-pentylphenyl)-5-n-hexylpyrimidine (m.p. 41.5°) and hydrogenation on Raney nickel) is dissolved in 150 ml of dioxane at 50° and 208 ml of 35% tetrafluoroboric acid are added dropwise, with stirring. After one hour, the resulting emulsion is cooled to 0°, whereupon crystallization occurs. A solution of 20 g of sodium nitrite in 150 ml of water is added to the suspension and the mixture is stirred for one hour. The resulting mixture diazonium tetrafluoborate is filtered off with suction, washed with ice-water and dried. 5 g of the diazonium salt is heated at 200° until the evolution of gas has ended. 2-(3-Fluoro-4-n-pentylphenyl)-5-n-hexylpyrimidine of m.p. 30° is obtained by purification by chromatography.

reactant | 2-(3-amino-4-n-pentylphenyl)-5-n-hexylpyrimidine | 56 g | NC=1C=C(C=CC1CCCCC)C1=NC=C(C=N1)CCCCCC | C21H31N3
reactant | tetrafluoroboric acid | 208 ml | F[B-](F)(F)F.[H+]
reactant | sodium nitrite | 20 g | N(=O)[O-].[Na+]
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
solvent | water | 150 ml | O | H2O
product | 2-(3-Fluoro-4-n-pentylphenyl)-5-n-hexylpyrimidine | FC=1C=C(C=CC1CCCCC)C1=NC=C(C=N1)CCCCCC | C21H29FN2
